US07608639B2
3-{2-Methyl-4-[3-(2-phenoxy-5-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared according to Example 85 by using 2-phenoxy-5-trifluoromethyl-phenol and 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester to afford about 35 mg (11%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C29H23O5F3 508, found 509 (M+1, 100%).

reactant | 2-phenoxy-5-trifluoromethyl-phenol | O(C1=CC=CC=C1)C1=C(C=C(C=C1)C(F)(F)F)O | C13H9F3O2
reactant | 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)Br)C)=O | C17H17BrO3
product | 3-{2-Methyl-4-[3-(2-phenoxy-5-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC=C1)OC1=C(C=CC(=C1)C(F)(F)F)OC1=CC=CC=C1)CCC(=O)O | C29H23F3O5
